US08377949B2
A mixture of (R)-cyclohexyl-(2-nitro-benzoylamino)-acetic acid methyl ester (1.16 g, 3.62 mmol), 10% Pd/C (250 mg) in EtOH (25 mL) are stirred under H2 atmosphere at room temperature for 16 hours. The reaction mixture is filtered and the organic layer is concentrated to give (R)-(2-amino-benzoylamino)-cyclohexyl-acetic acid methyl ester (1.08 g, 98%).

reactant | (R)-cyclohexyl-(2-nitro-benzoylamino)-acetic acid methyl ester | 3.62 mmol, 1.16 g | COC([C@H](NC(C1=C(C=CC=C1)[N+](=O)[O-])=O)C1CCCCC1)=O | C16H20N2O5
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | Pd/C | 250 mg | [Pd] | Pd
product | (R)-(2-amino-benzoylamino)-cyclohexyl-acetic acid methyl ester | 1.08 g, 98% | COC([C@@H](C1CCCCC1)NC(C1=C(C=CC=C1)N)=O)=O | C16H22N2O3
